US04711888
4-(3,4-Dichlorophenyl)-2-dimethylamino-5-hydroxypyrimidine
2-Amino-5-(3', 4'-dichlorobenzoyl)oxazole (2 g, 7.8 mmol) was combined with aqueous dimethylamine (100 ml) in t-butyl alcohol and stirred at room temperature for 4 hours. The solvents were removed in vacuum and the residue was chromatographed on silica gel with hexane and ethylacetate (3:1) as the eluent to yield 1.5 g of the title compound as a crystalline solid, m.p. 188°-189° C.

reactant | 2-Amino-5-(3', 4'-dichlorobenzoyl)oxazole | 7.8 mmol, 2 g | NC=1OC(=CN1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C10H6Cl2N2O2
reactant | dimethylamine | 100 ml | CNC | C2H7N
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 4-(3,4-Dichlorophenyl)-2-dimethylamino-5-hydroxypyrimidine | 1.5 g | ClC=1C=C(C=CC1Cl)C1=NC(=NC=C1O)N(C)C | C12H11Cl2N3O
